US08212041B2
A 50 mL RB flask was charged with 3-(azidomethyl)-6-phenyl-[1,2,4]triazolo[4,3-b][1,2,4]triazine (0.3492 g, 1.38 mmol) and THF (14.0 ml, 171 mmol), resulting in a dark brown solution. Triphenylphosphine (0.545 g, 2.08 mmol) and water (0.0998 ml, 5.54 mmol) were added, and the flask was placed in a 65° C. oil bath for 2 hours. The reaction mixture was concentrated to give a thick brown oil, which was purified by column chromatography using an 80 g ISCO column, eluting with a gradient of 5% MeOH (containing NH4OH)/DCM to 10% MeOH (containing NH4OH)/DCM over 40 minutes. (6-phenyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl)methanamine was isolated as a yellow solid.

reactant | 3-(azidomethyl)-6-phenyl-[1,2,4]triazolo[4,3-b][1,2,4]triazine | 1.38 mmol, 0.3492 g | N(=[N+]=[N-])CC1=NN=C2N1N=C(C=N2)C2=CC=CC=C2 | C11H8N8
reactant | THF | 171 mmol, 14.0 ml | C1CCOC1 | C4H8O
reactant | Triphenylphosphine | 2.08 mmol, 0.545 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 5.54 mmol, 0.0998 ml | O | H2O
product | (6-phenyl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-yl)methanamine | C1(=CC=CC=C1)C=1C=NC=2N(N1)C(=NN2)CN | C11H10N6
